US08431569B2
Step 2. 1-[(Dicyclopropylmethyl)amino]-7-pyridazin-3-yl-5H-pyrido[4,3-b]indole-4-carboxamide
A mixture of 1-[(dicyclopropylmethyl)amino]-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide (30 mg, 0.067 mmol), 3-chloropyridazine (12 mg, 0.10 mmol), Pd2(dba)3 (6.2 mg, 0.0067 mmol), tricyclohexylphosphine (4.7 mg, 0.017 mmol), and K3PO4 (1.27 M, 220 μL, 0.27 mmol) in dioxane (1.3 mL) was purged with nitrogen for 10 min, heated to 100° C. for 3 h, and cooled to room temperature. The mixture was concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.75 (s, 1H); 9.21 (d, 1H); 8.56 (d, 1H); 8.55 (s, 1H); 8.49 (s, 1H); 8.24 (d, 1H); 8.03 (d, 1H); 7.85 (br s, 1H); 7.81 (dd, 1H); 7.18 (br s, 1H); 6.66 (d, 1H); 3.65 (m, 1H); 1.40 (m, 2H); 0.55 (m, 2H); 0.37 (m, 6H). LRMS (APCI) calc'd for (C23H22N6O) [M+H]+, 399.2. found 399.1.

reactant | 1-[(dicyclopropylmethyl)amino]-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | 0.067 mmol, 30 mg | C1(CC1)C(C1CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)B2OC(C(O2)(C)C)(C)C)C(=O)N | C25H31BN4O3
reactant | 3-chloropyridazine | 0.10 mmol, 12 mg | ClC=1N=NC=CC1 | C4H3ClN2
reactant | tricyclohexylphosphine | 0.017 mmol, 4.7 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 0.27 mmol, 1.27 M, 220 μL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0067 mmol, 6.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[(Dicyclopropylmethyl)amino]-7-pyridazin-3-yl-5H-pyrido[4,3-b]indole-4-carboxamide | C1(CC1)C(C1CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C=2N=NC=CC2)C(=O)N | C23H22N6O
